US05157041
A solution of 193 mg of N2 -[3(S)-[[N-(benzyloxycarbonyl)-S-methyl-L-cysteinyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide in 2 ml of methanol was cooled to -70° C. A solution of 62 mg of 3-chloroperbenzoic acid in 5 ml of methanol was added and the mixture was stirred at -70° C. for 30 minutes. The solvent was then removed by evaporation and the residue was chromatographed on silica gel using System G for the elution to give 62 mg of N2 -[3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphinyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a 1:1 mixture of diastereomers: MS: m/e 601 [M+H]+.

reactant | N2 [3(S)-[[N-(benzyloxycarbonyl)-S-methyl-L-cysteinyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 193 mg | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CSC)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1
reactant | 3-chloroperbenzoic acid | 62 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | N2 [3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphinyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 62 mg | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CS(=O)C)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C31H44N4O6S.N2/c1-30(2,3)35-17-11-16-31(35,28(32)38)19-26(36)24(18-22-12-7-5-8-13-22)33-27(37)25(21-42(4)40)34-29(39)41-20-23-14-9-6-10-15-23;1-2/h5-10,12-15,24-26,36H,11,16-21H2,1-4H3,(H2,32,38)(H,33,37)(H,34,39);/t24-,25-,26+,31+,42?;/m0./s1
